US05068119
1,3-Disteroylglycerol. A mixture of 171.3 g (0.5 mole) glycidol stearate, 156.5 g (0.55 mole) stearic acid, 1.0 g (0.025 mole) sodium hydroxide, and tetrabutylammonium hydrogensulfate (8.5 g, 0.025 mole) in 400 mL ethanol is heated at reflux (80° C.) for 20 hours. The solid material is removed by passage of the reaction mixture through a short column of silica gel. After evaporation, the crude solid product is subjected to centrifugal partition chromatography using a mixture of acetonitrile-hexane. Recrystallization of the resulting powder from acetone-water gives 1,3-distearoylglycerol.

reactant | glycidol stearate | 0.5 mole, 171.3 g | CCCCCCCCCCCCCCCCCC(=O)OCC1CO1 | C21H40O3
reactant | stearic acid | 0.55 mole, 156.5 g | C(CCCCCCCCCCCCCCCCC)(=O)O | C18H36O2
reactant | sodium hydroxide | 0.025 mole, 1.0 g | [OH-].[Na+]
catalyst | tetrabutylammonium hydrogensulfate | 0.025 mole, 8.5 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethanol | 400 mL | C(C)O | C2H6O
product | 1,3-distearoylglycerol | C(CCCCCCCCCCCCCCCCC)(=O)OCC(O)COC(CCCCCCCCCCCCCCCCC)=O | C39H76O5
